US06777440B2
Compound 24: 3-[Carboxymethoxy-(4-fluoro-benzyl)-carbamoyl]-2-hydroxy-acrylic acid
A solution of [[2-(2,2-dimethyl-5-oxo-[1,3]-dioxolan-4-ylidene)-acetyl]-(4-fluorobenzyl)-aminooxy]-acetic acid (0.20 g, 0.56 mmol) in tetrahydrofuran (5 ml) was treated at 0° C. with 1.7 ml (1.7 mmol) of 1 M aqueous lithium hydroxide. After 2 h, the reaction mixture was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with brine, dried (magnesium sulphate) and evaporated in vacuo. Crystallisation of the residual solid from a mixture of ethyl acetate and hexane gave 0.083 g (47% yield) of the title material as a white solid: mp 135-138° C. 1HNMR 400 MHz (DMSO-d6) δ (ppm): (mixture of enol and keto forms, 7:3); enol form: 4.65 (2H, s, CH2), 4.92 (2H, s, CH2), 6.51 (1H, s, CH), 7.18 (2H, m, aromatics), 7.37 (2H, m, aromatics), 13.17 (1H, broad, OH). Anal. calcd for C13H12FNO7: C, 49.85; H, 3.86; N, 4.47. Found: C, 49.83; H, 3.90; N, 4.37.

reactant | [[2-(2,2-dimethyl-5-oxo-[1,3]-dioxolan-4-ylidene)-acetyl]-(4-fluorobenzyl)-aminooxy]-acetic acid | 0.56 mmol, 0.20 g | CC1(OC(C(O1)=CC(=O)N(OCC(=O)O)CC1=CC=C(C=C1)F)=O)C | C16H16FNO7
reactant | lithium hydroxide | 1.7 mmol, 1 M, 1.7 ml | [OH-].[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3-[Carboxymethoxy-(4-fluoro-benzyl)-carbamoyl]-2-hydroxy-acrylic acid | 0.083 g, 47% yield | C(=O)(O)CON(C(=O)C=C(C(=O)O)O)CC1=CC=C(C=C1)F | C13H12FNO7
